Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Failure to thrive 
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr. ___ is a ___ with a history of vascular dementia, 
NIDDM, skin cancer, hx of colon cancer who presents from home 
due concern by his PCP about an inability to care for himself.

Patient seen in home visit on ___. Significant concern that 
social situation continued to deteriorate. The apartment has 
been very dirty and the primary care doctor has been concerned 
about his well-being for months per documentation in notes. The 
patient denies any complaints. He denies any falls, pain, 
shortness of breath, fevers. Has been followed by Atrius with 
home NP visits per chart review. Lives alone at home, has been 
increasingly unkempt and filthy at home, not caring well for 
himself. 

In the ED, initial vitals were: 98.3 170 138/91 18 98% RA. Exam 
notable for: A+O x 2, covered in feces, tachycardic, with 
buttocks covered in stage II pressure ulcers. EKG initially 
showed HR 160s, appears regular, normal axis, LVH. He then had a 
repeat EKG with HR 150s, irregularly irregular, normal axis, 
LVH.

Labs notable for: CBC: WNL, 76% PMN on diff; BMP: HCO3 20, 
BUN/Cr ___, Gluc 220, AG 20, Lactate: 3.4; LFTs: AST 51; 
Coags: INR 1.2; UA: Clear, yellow, SG 1.029, Blood Sm, RBC 10, 
WBC 1, Bact few; leuk neg, nitrite neg; Urine and blood cx 
pending. Imaging performed included a CXR with a large hiatal 
hernia. Superior mediastinal widening about the trachea, similar 
to the prior exam, which may reflect enlarged thyroid goiter. 
Also had NCHCT which showed no acute intracranial process. A 9 
mm hyperdense lesion at the foramen ___ compatible with a 
colloid cyst. No secondary hydrocephalus.  

Patient was cleaned, barrier cream applied to pressure ulcers. 
He received a 500cc bolus infused x 2 w/ slight improvement in 
HR. He was also given 10mg IV diltiazem and Zosyn 4.5mg. He then 
received another dose of 30mg PO diltiazem. Prior to transfer, 
vitals were: 98.1 110 121/62 25 98% RA. Upon arrival to the 
floor, patient reports that he is unsure of how he got to the 
hospital. He denies CP, SOB, N/V/D, palpitations, lower 
extremity swelling, abdominal pain or urinary symptoms.

REVIEW OF SYSTEMS: Mr. ___ denies confusion, headache, 
chest pain, shortness of breath, lower extremity swelling, 
abdominal pain, N/V/D or fever/chills.

 
Past Medical History:
- Vascular vs. Alzheimer's dementia
- Mood disorder due to a general medical condition 
- Psychotic disorder due to medical condition with 
hallucinations 
- Arrhythmia
- DM (diabetes mellitus), type 2 
- HTN
- Headaches 
- Anemia 
- Temporal arteritis/Polymyalgia rheumatica 
- Osteoarthritis 
- History of squamous cell carcinoma of skin 
- History of colon cancer s/p colectomy ___ ___ 
- Sleep apnea 
- Diverticulosis 
- GERD 
- BPH 
- Hemorrhoids 
- History of Prostatitis 
- Thyroid nodule  
- Weight loss 
- Isolation, social 
- Unilateral inguinal hernia without obstruction or gangrene 

 
Social History:
___
Family History:
Patient has a family history of Alzheimer's disease per medical 
records.
 
Physical Exam:
ADMISSION EXAM
VITAL SIGNS: 98.3F 128/94 164 22 97% on RA 
GENERAL: elderly man in NAD, lying in bed 
HEENT: very poor dentition 
NECK: supple
CARDIAC: irregularly irregular, tachycardic 
LUNGS: clear to auscultation bilaterally
ABDOMEN: soft, non-tender, non-distended
EXTREMITIES: no ___ edema or ulcers
NEUROLOGIC: AA+O X 2 (able to correctly state name and year, 
unsure of where he is), states days of the week forward and 
backward accurately, does not know current president or any 
details of health history 
SKIN: scattered seborrheic keratoses

DISCHARGE EXAM
VITAL SIGNS: 97.6 105 / 61 74 18 94 Ra 
GENERAL: elderly man in NAD, lying in bed, pleasant. AOx2.5 
(needed calendar for date but knew to look at it)
HEENT: very poor dentition
CARDIAC: RRR no MRG
LUNGS: clear to auscultation bilaterally, no respiratory 
distress 
ABDOMEN: soft, non-tender, non-distended
EXTREMITIES: no ___ edema or ulcers
NEUROLOGIC: alert and answering questions appropriately
SKIN: many scattered seborrheic keratoses
 
Pertinent Results:
=====================
ADMISSION LABS
=====================
___ 02:35PM BLOOD WBC-8.0 RBC-4.81# Hgb-14.2# Hct-43.0# 
MCV-89 MCH-29.5 MCHC-33.0 RDW-14.6 RDWSD-47.9* Plt ___
___ 02:35PM BLOOD Neuts-76.6* Lymphs-11.0* Monos-11.0 
Eos-0.8* Baso-0.3 Im ___ AbsNeut-6.11* AbsLymp-0.88* 
AbsMono-0.88* AbsEos-0.06 AbsBaso-0.02
___ 02:35PM BLOOD Plt ___
___ 05:13PM BLOOD ___ PTT-28.8 ___
___ 02:35PM BLOOD Glucose-220* UreaN-26* Creat-1.0 Na-141 
K-3.8 Cl-104 HCO3-20* AnGap-21*
___ 02:35PM BLOOD ALT-14 AST-51* CK(CPK)-193 AlkPhos-73 
TotBili-0.5
___ 02:35PM BLOOD Lipase-33
___ 02:35PM BLOOD CK-MB-2
___ 02:35PM BLOOD Albumin-3.7 Calcium-9.2 Phos-2.8 Mg-2.0
___ 02:35PM BLOOD TSH-0.61
___ 02:44PM BLOOD Lactate-3.4*
___ 06:51AM BLOOD Lactate-1.1

=====================
DISCHARGE LABS
=====================
___ 07:35AM BLOOD WBC-4.9 RBC-3.94* Hgb-11.5* Hct-35.3* 
MCV-90 MCH-29.2 MCHC-32.6 RDW-14.6 RDWSD-47.7* Plt ___
___ 07:35AM BLOOD Plt ___
___ 07:35AM BLOOD ___ PTT-28.0 ___
___ 07:35AM BLOOD Glucose-89 UreaN-24* Creat-1.0 Na-138 
K-4.1 Cl-104 HCO3-26 AnGap-12
___ 07:35AM BLOOD Calcium-8.5 Phos-3.2 Mg-2.2

=====================
IMAGING
=====================
GU Ultrasound ___:
1. No hydronephrosis. Simple bilateral renal cysts are noted.
2. Enlarged prostate.
3. Unremarkable appearance of the urinary bladder. Note is made 
that the
patient was not able to void.

CT Head ___:
No acute intracranial process. 
A 9 mm hyperdense lesion at the foramen ___ compatible with 
a colloid 
cyst.  No secondary hydrocephalus. 

CXR ___:
Large hiatal hernia.  Superior mediastinal widening about the 
trachea, similar 
to the prior exam, which may reflect an enlarged thyroid goiter. 


===================
MICROBIOLOGY
===================
No growth on any cultures.

___ STOOL C. difficile DNA amplification 
assay-FINAL INPATIENT 
___ BLOOD CULTURE Blood Culture, Routine-FINAL 
INPATIENT 
___ URINE URINE CULTURE-FINAL EMERGENCY WARD 
___ BLOOD CULTURE Blood Culture, Routine-FINAL 
EMERGENCY WARD 

 
Brief Hospital Course:
SUMMARY: ___ with a history of vascular dementia, NIDDM, skin 
cancer and hx of colon cancer who presents due to concern for 
his ability to care for self per PCP and unsafe home 
environment. He was found to have severe dehydration, pressure 
ulcers on buttocks, and atrial fibrillation with RVR. He was 
discharged to rehab for further care. 
 
#ATRIAL FIBRILLATION W/ RVR: 
On presentation was tachycardic to HR 160s with EKGs showing 
atrial fibrillation with RVR. He was initially treated with 
diltiazem and volume resuscitation, which controlled his heart 
rate. He was transitioned to long-acting diltiazem which was 
titrated to 300mg daily. Anticoagulation was not initiated due 
to patient's age and fall risk. Would reconsider risk/benefit 
ratio as outpatient.

#Failure to thrive
#MALNUTRITION: Per ___ ___ Intensive Home Care note, 
patient has had difficulty maintaining adequate nutrition due to 
inability to care for self. This situation has deteriorated 
quickly in the past several months. Likely multifactorial 
secondary to progressive dementia, possible acute illness and 
social isolation. Disposition was extensively discussed with his 
family and outpatient provider ___. He was discharged 
to rehab for acute care. 

# Urinary retention: Patient was noted to be retaining urine. 
Infectious workup and medication review was negative for causes 
of urinary retention, and BPH was thought to be the etiology. He 
was managed with straight caths and initiated on tamsulosin 
0.4mg QHS and finasteride 5mg daily. Bladder ultrasound was 
performed which showed an enlarged prostate, no hydronephrosis, 
unremarkable appearance of bladder. 

#T2DM: Diet-controlled as outpatient, fingerstick on floor 89 at 
admission. No insulin given as inpatient. 

#PRESSURE ULCERS ON BUTTOCKS: patient has large pressure ulcers 
on bilateral buttocks noted by nursing staff. Initial concern 
for Stage II ulcers vs excoriation. Managed with dressings. 

TRANSITIONAL ISSUES: 
- Started on diltiazem ER 300mg daily for rate control of atrial 
fibrillation
- Started on tamsulosin 0.4mg QHS and finasteride 5mg daily. 
Please monitor for continued urinary retention. Would bladder 
scan every 6 hours and straight cath as needed for retention > 
300cc fluid
- Referral in process for Atrius urology for urinary retention. 
If no appointment is set up within 3 days, please call PCP ___. 
___ office at ___ to establish f/u with urology
- Will require ongoing wound care for pressure ulcers
# Contact: HCP, Cousin, ___ ___
___,  NP ___ (___ Home Care)

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q8H:PRN Pain - Mild  
2.  Diltiazem Extended-Release 300 mg PO DAILY  
3.  Docusate Sodium 100 mg PO BID  
4.  Finasteride 5 mg PO DAILY  
5.  LOPERamide 2 mg PO BID:PRN diarrhea  
6.  Tamsulosin 0.4 mg PO QHS  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
Atrial fibrillation
Dementia
Urinary retention

SECONDARY DIAGNOSIS:
Diabetes mellitus, type II

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ because your primary care doctor was 
concerned about your ability to care for yourself at home. You 
were found to be in a fast heart rhythm called atrial 
fibrillation. We gave you medicine to control your heart rate. 
You were also found to be retaining urine and we gave you 
medicines to help you urinate.

We felt that your home situation was not safe to return to 
currently and you were discharged to rehab for further care.

We wish you all the best!
- Your ___ care team
 
Followup Instructions:
___